US07989438B2
Step 11: 6-{2-[(tert-butoxycarbonyl)(methyl)amino]ethyl}-13-cyclohexyl-3-methoxy-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-10-carboxylic acid
To a 0.05M solution of methyl 6-{2-[(tert-butoxycarbonyl)(methyl)amino]ethyl}-13-cyclohexyl-3-methoxy-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-10-carboxylate in dioxane, 1M aqueous KOH solution (10 eq) was added and the mixture was heated to 70° C. After 2 h the mixture was neutralised with 1N HCl and then all volatiles were removed in vacuo. The residue was taken up with DCM and filtered to remove salts. The crude material was used without purification in the next step. (ES+) m/z 547 (M+H)+.

reactant | methyl 6-{2-[(tert-butoxycarbonyl)(methyl)amino]ethyl}-13-cyclohexyl-3-methoxy-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-10-carboxylate | C(C)(C)(C)OC(=O)N(CCC1CN2C(C3=C(C1)C=C(C=C3)OC)=C(C=3C=CC(=CC32)C(=O)OC)C3CCCCC3)C | C34H44N2O5
reactant | KOH | 1M, 10 eq | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-{2-[(tert-butoxycarbonyl)(methyl)amino]ethyl}-13-cyclohexyl-3-methoxy-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-10-carboxylic acid | C(C)(C)(C)OC(=O)N(CCC1CN2C(C3=C(C1)C=C(C=C3)OC)=C(C=3C=CC(=CC32)C(=O)O)C3CCCCC3)C | C33H42N2O5
